US04131674
A suspension of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one (3.2 g.), methyl 2-isocyanatoacetate (1.4 g.) and triethylamine (1.2 g.) in acetonitrile (50 cc.) is stirred for 18 hours at a temperature of about 20° C. A further amount of methyl 2-isocyanatoacetate (0.7 g.) is added and stirring is continued for a further 3 hours. The precipitate is filtered off and is dissolved in methylene chloride (35 cc.). Decolourising charcoal (0.5 g.) is added. After filtration, diisopropyl ether (105 cc.) is added to the filtrate. The crystalline precipitate which forms is filtered off, washed with diisopropyl ether (15 cc.) and then dried to give 2-(7-chloro-1,8-naphthyridin-2-yl)-3-methoxycarbonylmethylaminocarbonyloxy-isoindolin-1-one (2.5 g.) melting at 208°-210° C.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one | 3.2 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
reactant | methyl 2-isocyanatoacetate | 1.4 g | N(=C=O)CC(=O)OC | C4H5NO3
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | methyl 2-isocyanatoacetate | 0.7 g | N(=C=O)CC(=O)OC | C4H5NO3
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-methoxycarbonylmethylaminocarbonyloxy-isoindolin-1-one | 2.5 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)NCC(=O)OC)=O | C20H15ClN4O5
